US05424405
To a solution of 500 parts of 2,4-dinitro-1-chlorobenzene in 590 parts of N,N-dimethylformamide (DMF) are added 217 parts of potassium fluoride and the reaction mixture is stirred at room temperature for 5 hours. Then 350 parts of 2-mercaptoethanol are added dropwise, the internal temperature rising to 60°-65 ° C., and the reaction mixture is subsequently stirred at that temperature for about 15 hours. Starting materials still present are then made to react by adding 34 parts of potassium carbonate. Finally the reaction mixture is allowed to cool down to room temperature, salts are filtered off, and the filtrate is concentrated. The oily crude product is discharged onto water, and a yellow, crystalline precipitate forms. Filtering off with suction, washing and drying leaves 2-[2,4-dinitrophenylsulfanyl]ethanol in almost quantitative yield and high purity.

reactant | 2,4-dinitro-1-chlorobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | potassium fluoride | [F-].[K+]
reactant | 2-mercaptoethanol | SCCO | C2H6OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[2,4-dinitrophenylsulfanyl]ethanol | quantitative yield | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SCCO | C8H8N2O5S
